2167-02-13 06:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2167-2-12**] 04:49 PM
 CORDIS/INTRODUCER - START [**2167-2-12**] 05:42 PM
 MIDLINE - START [**2167-2-12**] 05:43 PM
 EKG - At [**2167-2-12**] 10:27 PM
   Overnight Events:
   - went back into sinus rhythm, after some episodes of paced beats
   Allergies:
   Ace Inhibitors
   Unknown;
   Cozaar (Oral) (Losartan Potassium)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2167-2-12**] 09:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2167-2-13**] 06:00 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2167-2-12**] 09:30 PM
   Heparin Sodium (Prophylaxis) - [**2167-2-13**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-2-13**] 06:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**68**] AM
   Tmax: 38.2
C (100.8
   Tcurrent: 36.3
C (97.3
   HR: 62 (60 - 92) bpm
   BP: 114/49(65) {114/46(65) - 159/80(90)} mmHg
   RR: 14 (14 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.4 kg (admission): 81 kg
   Height: 62 Inch
             Total In:
                                                                    285 mL
                                                                    474 mL
   PO:
             TF:
   IVF:
                                                                    285 mL
                                                                    424 mL
   Blood products:
   Total out:
                                                                  1,060 mL
                                                                    675 mL
   Urine:
                                                                  1,060 mL
                                                                    675 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -775 mL
                                                                   -201 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 54
   PIP: 23 cmH2O
   Plateau: 21 cmH2O
   Compliance: 28.1 cmH2O/mL
   SpO2: 98%
   ABG: 7.47/43/122/29/7
   Ve: 7 L/min
   PaO2 / FiO2: 305
   Physical Examination
   GENERAL: 74 y/o F in NAD. Intubated. Nods appropriately to questioning.
   HEENT: NC/AT. Sclera anicteric. PERRL, EOMI. ET tube in place.
   NECK: No significant JVD noted.
   CARDIAC: Irregular rhythm. [**1-3**] holosystolic murmur, loudest at the
   apex.
   LUNGS: Intubated. Coarse breath sounds. CTA anteriorly.
   ABDOMEN: Obese. Soft, NTND. No HSM appreciated.
   EXTREMITIES: Pitting edema in all 4 extremities. 2+ DP pulses
   bilaterally.
   SKIN: Ecchymoses and hyperpigmented patches on pt's back. Healing
   ulceration on plantar aspect of pt's right foot.
   PULSES:
   Right: DP 2+
   Left: DP 2+
   NEURO: Able to move all four extremities. Able to follow commands. Able
   to nod appropriately to questioning.
   Labs / Radiology
   295 K/uL
   10.0 g/dL
   145 mg/dL
   1.3 mg/dL
   29 mEq/L
   3.8 mEq/L
   35 mg/dL
   109 mEq/L
   148 mEq/L
   31.0 %
   7.4 K/uL
        [image002.jpg]
                             [**2167-2-12**]  08:44 PM
                             [**2167-2-12**]  10:19 PM
                             [**2167-2-13**]  04:11 AM
   WBC
   8.4
   7.4
   Hct
   31.6
   31.0
   Plt
   288
   295
   Cr
   1.3
   1.3
   TropT
   0.31
   0.28
   TCO2
   32
   Glucose
   120
   145
   Other labs: PT / PTT / INR:12.3/28.0/1.0, CK / CKMB /
   Troponin-T:31//0.28, ALT / AST:22/25, Alk Phos / T Bili:122/0.8,
   Differential-Neuts:79.2 %, Lymph:12.6 %, Mono:5.8 %, Eos:1.9 %, Lactic
   Acid:0.8 mmol/L, Albumin:2.3 g/dL, LDH:231 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   74 y/o F with PMHx significant for dCHF, HTN, HL, DM, who was admitted
   OSH with respiratory failure, now s/p intubation. Recent hospital
   course complicated by persistent respiratory failure, bilateral pleural
   effusions, and development of sinus pauses on telemetry, s/p placement
   of a temporary pacer wire.
   .
   # Respiratory Failure: The patient is currently intubated and is
   breathing comfortably on the ventilator. She does not exhibit any signs
   of respiratory distress. The etiology of her respiratory failure is
   likely multifactorial, related to infection and heart failure. Of note,
   her sputum cx at the OSH grew GPC in pairs and GN coccobacilli that
   were concerning for h.flu. Blood cx were also positive for h.flu. For
   this, she has been on vanc/zosyn. In addition to these infectious
   processes, there is also likely a component of heart failure associated
   with the patient's respiratory distress. CXR on arrival to [**Hospital1 19**] was
   consistent with fluid overload. As mentioned in her transfer notes, the
   patient does not seem to be compliant with her home medications.
   Additionally, she was noted to have an elevated troponin at the OSH.
   This could represent demand ischemia in the setting of a CHF
   exacerbation vs. active ischemia contributing to the patient's CHF
   exacerbation. Finally, the patient has had episodes of both a.fib with
   RVR and sinus pauses on telemetry. This sinus dysfunction could also be
   contributing to the patient's heart failure.
   - continue diuresis with IV lasix boluses; giving 40 mg IV x 1 now and
   will assess pt's response
   - echo in AM to further evaluate cardiac function
   - continue to trend cardiac enzymes
   - continue to monitor fluid status
   .
   # Rhythm: As above, the patient has been noted to have episodes of both
   a.fib with RVR as well as sinus pauses on telemetry. This is concerning
   for sick sinus syndrome.
   - EP consult in AM
   - continue telemetry
   - recheck ECG in AM
   - IV metoprolol for RVR, holding nodal agents otherwise
   - temporary pacer in place for sinus pauses
   - pt not anticoagulated; will likely need to be started on
   anticoagulation in the setting of PAF
   .
   # Troponinemia: As above, elevated troponin secondary to demand
   ischemia in the setting of CHF exacerbation vs. secondary to ischemic
   event contributing to CHF exacerbation. Decreased troponin clearance
   likely [**12-30**] ARF.
   - continue to trend CE's in the morning
   - ECG in AM
   - repeat echo in AM, as above
   - starting ASA
   .
   # ID: Pt with H.flu in blood and GPC's & GN coccobacilli in sputum at
   OSH. Was on vanc/zosyn there.
   - repeat blood cx here
   - f/u micro data from OSH
   - continue vanc/zosyn for now
   - consider getting ID input
   .
   # ARF: [**First Name8 (NamePattern2) 54**] [**Last Name (un) 303**] labs, baseline Cr ranges between 0.8 and 1.0.
   Currently, Cr is 1.3. Likely poor forward flow in the setting of CHF.
   - continue to trend creatinine
   .
   # Diabetes: Unclear of pt's home regimen.
   - ISS for now
   - fingersticks QID
   .
   # Nutrition: Pt is hypoalbuminemic on admission (2.3). NG tube in
   place. Was getting TF's at OSH. Poor nutritional status likely
   contributing to patient's peripheral edema.
   - nutrition consult for TF recommendations
   .
   # Hypertension: Pt normotensive at this time.
   - will clarify home med regimen
   - can restart antihypertensives as BP allows
   .
   # Hyperlipidemia:
   - need to clarify home regimen
   .
   # Hypothyroidism:
   - continue levothyroxine 50 mcg daily
   ICU Care
   Nutrition:
   Glycemic Control:  Comments: Insulin Sliding Scale
   Lines:
   Cordis/Introducer - [**2167-2-12**] 05:42 PM
   Midline - [**2167-2-12**] 05:43 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2167-02-13 06:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2167-2-12**] 04:49 PM
 CORDIS/INTRODUCER - START [**2167-2-12**] 05:42 PM
 MIDLINE - START [**2167-2-12**] 05:43 PM
 EKG - At [**2167-2-12**] 10:27 PM
   Allergies:
   Ace Inhibitors
   Unknown;
   Cozaar (Oral) (Losartan Potassium)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2167-2-12**] 09:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2167-2-13**] 06:00 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2167-2-12**] 09:30 PM
   Heparin Sodium (Prophylaxis) - [**2167-2-13**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-2-13**] 06:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**68**] AM
   Tmax: 38.2
C (100.8
   Tcurrent: 36.3
C (97.3
   HR: 62 (60 - 92) bpm
   BP: 114/49(65) {114/46(65) - 159/80(90)} mmHg
   RR: 14 (14 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.4 kg (admission): 81 kg
   Height: 62 Inch
             Total In:
                                                                    285 mL
                                                                    474 mL
   PO:
             TF:
   IVF:
                                                                    285 mL
                                                                    424 mL
   Blood products:
   Total out:
                                                                  1,060 mL
                                                                    675 mL
   Urine:
                                                                  1,060 mL
                                                                    675 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -775 mL
                                                                   -201 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 54
   PIP: 23 cmH2O
   Plateau: 21 cmH2O
   Compliance: 28.1 cmH2O/mL
   SpO2: 98%
   ABG: 7.47/43/122/29/7
   Ve: 7 L/min
   PaO2 / FiO2: 305
   Physical Examination
   GENERAL: 74 y/o F in NAD. Intubated. Nods appropriately to questioning.
   HEENT: NC/AT. Sclera anicteric. PERRL, EOMI. ET tube in place.
   NECK: No significant JVD noted.
   CARDIAC: Irregular rhythm. [**1-3**] holosystolic murmur, loudest at the
   apex.
   LUNGS: Intubated. Coarse breath sounds. CTA anteriorly.
   ABDOMEN: Obese. Soft, NTND. No HSM appreciated.
   EXTREMITIES: Pitting edema in all 4 extremities. 2+ DP pulses
   bilaterally.
   SKIN: Ecchymoses and hyperpigmented patches on pt's back. Healing
   ulceration on plantar aspect of pt's right foot.
   PULSES:
   Right: DP 2+
   Left: DP 2+
   NEURO: Able to move all four extremities. Able to follow commands. Able
   to nod appropriately to questioning.
   Labs / Radiology
   295 K/uL
   10.0 g/dL
   145 mg/dL
   1.3 mg/dL
   29 mEq/L
   3.8 mEq/L
   35 mg/dL
   109 mEq/L
   148 mEq/L
   31.0 %
   7.4 K/uL
        [image002.jpg]
                             [**2167-2-12**]  08:44 PM
                             [**2167-2-12**]  10:19 PM
                             [**2167-2-13**]  04:11 AM
   WBC
   8.4
   7.4
   Hct
   31.6
   31.0
   Plt
   288
   295
   Cr
   1.3
   1.3
   TropT
   0.31
   0.28
   TCO2
   32
   Glucose
   120
   145
   Other labs: PT / PTT / INR:12.3/28.0/1.0, CK / CKMB /
   Troponin-T:31//0.28, ALT / AST:22/25, Alk Phos / T Bili:122/0.8,
   Differential-Neuts:79.2 %, Lymph:12.6 %, Mono:5.8 %, Eos:1.9 %, Lactic
   Acid:0.8 mmol/L, Albumin:2.3 g/dL, LDH:231 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:  Comments: Insulin Sliding Scale
   Lines:
   Cordis/Introducer - [**2167-2-12**] 05:42 PM
   Midline - [**2167-2-12**] 05:43 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2167-02-13 06:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2167-2-12**] 04:49 PM
 CORDIS/INTRODUCER - START [**2167-2-12**] 05:42 PM
 MIDLINE - START [**2167-2-12**] 05:43 PM
 EKG - At [**2167-2-12**] 10:27 PM
   Overnight Events:
   - went back into sinus rhythm, after some episodes of paced beats
   Allergies:
   Ace Inhibitors
   Unknown;
   Cozaar (Oral) (Losartan Potassium)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2167-2-12**] 09:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2167-2-13**] 06:00 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2167-2-12**] 09:30 PM
   Heparin Sodium (Prophylaxis) - [**2167-2-13**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-2-13**] 06:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**68**] AM
   Tmax: 38.2
C (100.8
   Tcurrent: 36.3
C (97.3
   HR: 62 (60 - 92) bpm
   BP: 114/49(65) {114/46(65) - 159/80(90)} mmHg
   RR: 14 (14 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.4 kg (admission): 81 kg
   Height: 62 Inch
             Total In:
                                                                    285 mL
                                                                    474 mL
   PO:
             TF:
   IVF:
                                                                    285 mL
                                                                    424 mL
   Blood products:
   Total out:
                                                                  1,060 mL
                                                                    675 mL
   Urine:
                                                                  1,060 mL
                                                                    675 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -775 mL
                                                                   -201 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 54
   PIP: 23 cmH2O
   Plateau: 21 cmH2O
   Compliance: 28.1 cmH2O/mL
   SpO2: 98%
   ABG: 7.47/43/122/29/7
   Ve: 7 L/min
   PaO2 / FiO2: 305
   Physical Examination
   GENERAL: 74 y/o F in NAD. Intubated. Nods appropriately to questioning.
   HEENT: NC/AT. PERRL. ET tube in place.
   NECK: No significant JVD noted.
   CARDIAC: Irregular rhythm. [**1-3**] holosystolic murmur, loudest at the
   apex.
   LUNGS: Intubated. Coarse breath sounds. CTA anteriorly.
   ABDOMEN: Obese. Soft, NTND. No HSM appreciated.
   EXTREMITIES: Pitting edema in all 4 extremities. 2+ DP pulses
   bilaterally.
   NEURO: Able to move all four extremities. Able to follow commands. Able
   to nod appropriately to questioning.
   Labs / Radiology
   295 K/uL
   10.0 g/dL
   145 mg/dL
   1.3 mg/dL
   29 mEq/L
   3.8 mEq/L
   35 mg/dL
   109 mEq/L
   148 mEq/L
   31.0 %
   7.4 K/uL
        [image002.jpg]
                             [**2167-2-12**]  08:44 PM
                             [**2167-2-12**]  10:19 PM
                             [**2167-2-13**]  04:11 AM
   WBC
   8.4
   7.4
   Hct
   31.6
   31.0
   Plt
   288
   295
   Cr
   1.3
   1.3
   TropT
   0.31
   0.28
   TCO2
   32
   Glucose
   120
   145
   Other labs: PT / PTT / INR:12.3/28.0/1.0, CK / CKMB /
   Troponin-T:31//0.28, ALT / AST:22/25, Alk Phos / T Bili:122/0.8,
   Differential-Neuts:79.2 %, Lymph:12.6 %, Mono:5.8 %, Eos:1.9 %, Lactic
   Acid:0.8 mmol/L, Albumin:2.3 g/dL, LDH:231 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   74 y/o F with PMHx significant for dCHF, HTN, HL, DM, who was admitted
   OSH with respiratory failure, now s/p intubation. Recent hospital
   course complicated by persistent respiratory failure, bilateral pleural
   effusions, and development of sinus pauses on telemetry, s/p placement
   of a temporary pacer wire.
   .
   # Respiratory Failure: Likely multifactorial, related to infection and
   heart failure. Sputum cx at the OSH grew GPC in pairs and GN
   coccobacilli that were concerning for h.flu. Blood cx were also
   positive for h.flu. On vanc/zosyn. Also likely a component of heart
   failure associated with the patient's respiratory distress. Patient
   does not seem to be compliant with her home medications. Additionally,
   she was noted to have an elevated troponin at the OSH. This could
   represent demand ischemia in the setting of a CHF exacerbation vs.
   active ischemia contributing to the patient's CHF exacerbation.
   Finally, the patient has had episodes of both a.fib with RVR and sinus
   pauses on telemetry. This sinus dysfunction could also be contributing
   to the patient's heart failure.
   - continue diuresis with IV lasix boluses; giving 40 mg IV x 1
   - f/u echo
   - continue to trend cardiac enzymes
   - continue to monitor fluid status
   - reassess respiratory status this afternoon after diuresis and
   consider extubation
   .
   # Rhythm: As above, the patient has been noted to have episodes of both
   a.fib with RVR as well as sinus pauses on telemetry. This is concerning
   for sick sinus syndrome.
   - consider EP consult for PM placement after infection is better
   controlled
   - continue telemetry
   - IV metoprolol for RVR, holding nodal agents otherwise
   - temporary pacer in place
   - pt not anticoagulated; will likely need to be started on
   anticoagulation in the setting of PAF; starting heparin gtt, can start
   Coumadin after decision re: pacemaker
   .
   # Troponinemia: As above, elevated troponin secondary to demand
   ischemia in the setting of CHF exacerbation vs. secondary to ischemic
   event contributing to CHF exacerbation. Decreased troponin clearance
   likely [**12-30**] ARF.
   - continue to trend CE's
   - f/u echo
   - continue ASA
   .
   # ID: Pt with H.flu in blood and GPC's & GN coccobacilli in sputum at
   OSH. Was on vanc/zosyn there.
   - repeat blood cx here
   - f/u micro data from OSH
   - continue vanc/zosyn for now
   - consider getting ID input
   .
   # ARF: [**First Name8 (NamePattern2) 54**] [**Last Name (un) 303**] labs, baseline Cr ranges between 0.8 and 1.0.
   Currently, Cr is 1.3. Likely poor forward flow in the setting of CHF.
   - continue to trend creatinine
   .
   # Diabetes: Unclear of pt's home regimen.
   - ISS for now
   - fingersticks QID
   .
   # Nutrition: Pt is hypoalbuminemic on admission (2.3). NG tube in
   place. Was getting TF's at OSH. Poor nutritional status likely
   contributing to patient's peripheral edema.
   - nutrition consult for TF recommendations: recommending REPLETE WITH
   FIBER (goal of 50 mL/hr)
   .
   # Hypertension: Pt normotensive at this time.
   - will clarify home med regimen
   - can restart antihypertensives as BP allows
   .
   # Hyperlipidemia:
   - need to clarify home regimen
   .
   # Hypothyroidism:
   - continue levothyroxine 50 mcg daily
   ICU Care
   Nutrition:
   Glycemic Control:  Comments: Insulin Sliding Scale
   Lines:
   Cordis/Introducer - [**2167-2-12**] 05:42 PM
   Midline - [**2167-2-12**] 05:43 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   CCU Attending
   I agree with the detailed note by Dr. [**First Name (STitle) 13813**] delineated above.
   History and Physical.   I agree with the documented portions of the
   history and physical examination.  I concur with the treatment plan
   outlined above.
   Medical Decision Making.  As outlined in the above note.  I concur with
   the current plans.
   [**First Name4 (NamePattern1) 1914**] [**Last Name (NamePattern1) 7145**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 1914**] [**Last Name (NamePattern1) 7145**], MD
   on:[**2167-2-13**] 19:35 ------

2167-02-13 06:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2167-2-12**] 04:49 PM
 CORDIS/INTRODUCER - START [**2167-2-12**] 05:42 PM
 MIDLINE - START [**2167-2-12**] 05:43 PM
 EKG - At [**2167-2-12**] 10:27 PM
   Allergies:
   Ace Inhibitors
   Unknown;
   Cozaar (Oral) (Losartan Potassium)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2167-2-12**] 09:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2167-2-13**] 06:00 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2167-2-12**] 09:30 PM
   Heparin Sodium (Prophylaxis) - [**2167-2-13**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-2-13**] 06:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**68**] AM
   Tmax: 38.2
C (100.8
   Tcurrent: 36.3
C (97.3
   HR: 62 (60 - 92) bpm
   BP: 114/49(65) {114/46(65) - 159/80(90)} mmHg
   RR: 14 (14 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.4 kg (admission): 81 kg
   Height: 62 Inch
             Total In:
                                                                    285 mL
                                                                    474 mL
   PO:
             TF:
   IVF:
                                                                    285 mL
                                                                    424 mL
   Blood products:
   Total out:
                                                                  1,060 mL
                                                                    675 mL
   Urine:
                                                                  1,060 mL
                                                                    675 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -775 mL
                                                                   -201 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 54
   PIP: 23 cmH2O
   Plateau: 21 cmH2O
   Compliance: 28.1 cmH2O/mL
   SpO2: 98%
   ABG: 7.47/43/122/29/7
   Ve: 7 L/min
   PaO2 / FiO2: 305
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   295 K/uL
   10.0 g/dL
   145 mg/dL
   1.3 mg/dL
   29 mEq/L
   3.8 mEq/L
   35 mg/dL
   109 mEq/L
   148 mEq/L
   31.0 %
   7.4 K/uL
        [image002.jpg]
                             [**2167-2-12**]  08:44 PM
                             [**2167-2-12**]  10:19 PM
                             [**2167-2-13**]  04:11 AM
   WBC
   8.4
   7.4
   Hct
   31.6
   31.0
   Plt
   288
   295
   Cr
   1.3
   1.3
   TropT
   0.31
   0.28
   TCO2
   32
   Glucose
   120
   145
   Other labs: PT / PTT / INR:12.3/28.0/1.0, CK / CKMB /
   Troponin-T:31//0.28, ALT / AST:22/25, Alk Phos / T Bili:122/0.8,
   Differential-Neuts:79.2 %, Lymph:12.6 %, Mono:5.8 %, Eos:1.9 %, Lactic
   Acid:0.8 mmol/L, Albumin:2.3 g/dL, LDH:231 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:  Comments: Insulin Sliding Scale
   Lines:
   Cordis/Introducer - [**2167-2-12**] 05:42 PM
   Midline - [**2167-2-12**] 05:43 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2167-02-13 06:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2167-2-12**] 04:49 PM
 CORDIS/INTRODUCER - START [**2167-2-12**] 05:42 PM
 MIDLINE - START [**2167-2-12**] 05:43 PM
 EKG - At [**2167-2-12**] 10:27 PM
   Overnight Events:
   - went back into sinus rhythm, after some episodes of paced beats
   Allergies:
   Ace Inhibitors
   Unknown;
   Cozaar (Oral) (Losartan Potassium)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2167-2-12**] 09:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2167-2-13**] 06:00 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2167-2-12**] 09:30 PM
   Heparin Sodium (Prophylaxis) - [**2167-2-13**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-2-13**] 06:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**68**] AM
   Tmax: 38.2
C (100.8
   Tcurrent: 36.3
C (97.3
   HR: 62 (60 - 92) bpm
   BP: 114/49(65) {114/46(65) - 159/80(90)} mmHg
   RR: 14 (14 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.4 kg (admission): 81 kg
   Height: 62 Inch
             Total In:
                                                                    285 mL
                                                                    474 mL
   PO:
             TF:
   IVF:
                                                                    285 mL
                                                                    424 mL
   Blood products:
   Total out:
                                                                  1,060 mL
                                                                    675 mL
   Urine:
                                                                  1,060 mL
                                                                    675 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -775 mL
                                                                   -201 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 54
   PIP: 23 cmH2O
   Plateau: 21 cmH2O
   Compliance: 28.1 cmH2O/mL
   SpO2: 98%
   ABG: 7.47/43/122/29/7
   Ve: 7 L/min
   PaO2 / FiO2: 305
   Physical Examination
   GENERAL: 74 y/o F in NAD. Intubated. Nods appropriately to questioning.
   HEENT: NC/AT. PERRL. ET tube in place.
   NECK: No significant JVD noted.
   CARDIAC: Irregular rhythm. [**1-3**] holosystolic murmur, loudest at the
   apex.
   LUNGS: Intubated. Coarse breath sounds. CTA anteriorly.
   ABDOMEN: Obese. Soft, NTND. No HSM appreciated.
   EXTREMITIES: Pitting edema in all 4 extremities. 2+ DP pulses
   bilaterally.
   NEURO: Able to move all four extremities. Able to follow commands. Able
   to nod appropriately to questioning.
   Labs / Radiology
   295 K/uL
   10.0 g/dL
   145 mg/dL
   1.3 mg/dL
   29 mEq/L
   3.8 mEq/L
   35 mg/dL
   109 mEq/L
   148 mEq/L
   31.0 %
   7.4 K/uL
        [image002.jpg]
                             [**2167-2-12**]  08:44 PM
                             [**2167-2-12**]  10:19 PM
                             [**2167-2-13**]  04:11 AM
   WBC
   8.4
   7.4
   Hct
   31.6
   31.0
   Plt
   288
   295
   Cr
   1.3
   1.3
   TropT
   0.31
   0.28
   TCO2
   32
   Glucose
   120
   145
   Other labs: PT / PTT / INR:12.3/28.0/1.0, CK / CKMB /
   Troponin-T:31//0.28, ALT / AST:22/25, Alk Phos / T Bili:122/0.8,
   Differential-Neuts:79.2 %, Lymph:12.6 %, Mono:5.8 %, Eos:1.9 %, Lactic
   Acid:0.8 mmol/L, Albumin:2.3 g/dL, LDH:231 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   74 y/o F with PMHx significant for dCHF, HTN, HL, DM, who was admitted
   OSH with respiratory failure, now s/p intubation. Recent hospital
   course complicated by persistent respiratory failure, bilateral pleural
   effusions, and development of sinus pauses on telemetry, s/p placement
   of a temporary pacer wire.
   .
   # Respiratory Failure: Likely multifactorial, related to infection and
   heart failure. Sputum cx at the OSH grew GPC in pairs and GN
   coccobacilli that were concerning for h.flu. Blood cx were also
   positive for h.flu. On vanc/zosyn. Also likely a component of heart
   failure associated with the patient's respiratory distress. Patient
   does not seem to be compliant with her home medications. Additionally,
   she was noted to have an elevated troponin at the OSH. This could
   represent demand ischemia in the setting of a CHF exacerbation vs.
   active ischemia contributing to the patient's CHF exacerbation.
   Finally, the patient has had episodes of both a.fib with RVR and sinus
   pauses on telemetry. This sinus dysfunction could also be contributing
   to the patient's heart failure.
   - continue diuresis with IV lasix boluses; giving 40 mg IV x 1
   - f/u echo
   - continue to trend cardiac enzymes
   - continue to monitor fluid status
   - reassess respiratory status this afternoon after diuresis and
   consider extubation
   .
   # Rhythm: As above, the patient has been noted to have episodes of both
   a.fib with RVR as well as sinus pauses on telemetry. This is concerning
   for sick sinus syndrome.
   - consider EP consult for PM placement after infection is better
   controlled
   - continue telemetry
   - IV metoprolol for RVR, holding nodal agents otherwise
   - temporary pacer in place
   - pt not anticoagulated; will likely need to be started on
   anticoagulation in the setting of PAF; starting heparin gtt, can start
   Coumadin after decision re: pacemaker
   .
   # Troponinemia: As above, elevated troponin secondary to demand
   ischemia in the setting of CHF exacerbation vs. secondary to ischemic
   event contributing to CHF exacerbation. Decreased troponin clearance
   likely [**12-30**] ARF.
   - continue to trend CE's
   - f/u echo
   - continue ASA
   .
   # ID: Pt with H.flu in blood and GPC's & GN coccobacilli in sputum at
   OSH. Was on vanc/zosyn there.
   - repeat blood cx here
   - f/u micro data from OSH
   - continue vanc/zosyn for now
   - consider getting ID input
   .
   # ARF: [**First Name8 (NamePattern2) 54**] [**Last Name (un) 303**] labs, baseline Cr ranges between 0.8 and 1.0.
   Currently, Cr is 1.3. Likely poor forward flow in the setting of CHF.
   - continue to trend creatinine
   .
   # Diabetes: Unclear of pt's home regimen.
   - ISS for now
   - fingersticks QID
   .
   # Nutrition: Pt is hypoalbuminemic on admission (2.3). NG tube in
   place. Was getting TF's at OSH. Poor nutritional status likely
   contributing to patient's peripheral edema.
   - nutrition consult for TF recommendations: recommending REPLETE WITH
   FIBER (goal of 50 mL/hr)
   .
   # Hypertension: Pt normotensive at this time.
   - will clarify home med regimen
   - can restart antihypertensives as BP allows
   .
   # Hyperlipidemia:
   - need to clarify home regimen
   .
   # Hypothyroidism:
   - continue levothyroxine 50 mcg daily
   ICU Care
   Nutrition:
   Glycemic Control:  Comments: Insulin Sliding Scale
   Lines:
   Cordis/Introducer - [**2167-2-12**] 05:42 PM
   Midline - [**2167-2-12**] 05:43 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2167-02-19 07:15:00 Physician Resident Progress Note
TITLE: Physician Resident Progress Note
   Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2167-2-18**] 04:23 PM
 CALLED OUT
   - repeat CXR: Increased bibasilar opacities and left pleural effusion
   following extubation.
   - anticoagulation was discussed with patient
   - stopped abx
   - increased amlodipine to 10 mg
   - sent protein/creatinine ratio: 0.9
   - got 1 dose of hydral
   - got a total of 80 mg IV lasix
   Allergies:
   Ace Inhibitors
   Unknown;
   Cozaar (Oral) (Losartan Potassium)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2167-2-16**] 06:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2167-2-18**] 06:21 AM
   Infusions:
   Heparin Sodium - 1,900 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2167-2-19**] 02:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-2-19**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**68**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.8
C (98.2
   HR: 66 (54 - 71) bpm
   BP: 165/56(82) {123/44(64) - 197/79(108)} mmHg
   RR: 20 (12 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.5 kg (admission): 81 kg
   Height: 62 Inch
             Total In:
                                                                  1,390 mL
                                                                    328 mL
   PO:
             TF:
   IVF:
                                                                  1,390 mL
                                                                    328 mL
   Blood products:
   Total out:
                                                                  1,692 mL
                                                                  1,800 mL
   Urine:
                                                                  1,692 mL
                                                                  1,800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -302 mL
                                                                 -1,472 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.42/45/64/25/3
   Physical Examination
   GEN: Alert; NAD; Oriented to person and place (not to date)
   HEENT: PERRL
   CV: [**1-3**] holosystolic murmur at the apex
   RESP: slight crackles anteriorly; decreased BS at the bases
   ABD: S/NT/ND; BS present
   EXT: Pitting edema in all 4 extremities, improved
   Labs / Radiology
   423 K/uL
   10.5 g/dL
   170
   0.9 mg/dL
   25 mEq/L
   4.0 mEq/L
   13 mg/dL
   103 mEq/L
   139 mEq/L
   33.6 %
   4.2 K/uL
        [image002.jpg]
                             [**2167-2-16**]  03:36 PM
                             [**2167-2-16**]  04:40 PM
                             [**2167-2-17**]  12:14 AM
                             [**2167-2-17**]  03:49 AM
                             [**2167-2-17**]  03:47 PM
                             [**2167-2-18**]  04:44 AM
                             [**2167-2-18**]  03:04 PM
                             [**2167-2-18**]  03:44 PM
                             [**2167-2-18**]  11:00 PM
                             [**2167-2-19**]  05:45 AM
   WBC
   5.6
   4.9
   4.2
   Hct
   33.5
   34.0
   33.6
   Plt
   388
   451
   423
   Cr
   1.0
   0.9
   0.6
   1.0
   0.9
   0.9
   TCO2
   43
   38
   30
   Glucose
   137
   141
   148
   159
   188
   153
   170
   Other labs: PT / PTT / INR:13.4/71.2/1.1, CK / CKMB /
   Troponin-T:45//0.28, ALT / AST:22/25, Alk Phos / T Bili:119/0.8,
   Differential-Neuts:78.5 %, Lymph:15.0 %, Mono:3.6 %, Eos:2.4 %, Lactic
   Acid:1.0 mmol/L, Albumin:2.3 g/dL, LDH:231 IU/L, Ca++:9.0 mg/dL,
   Mg++:2.5 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   74 y/o F with PMHx significant for dCHF, HTN, HL, DM, who was admitted
   OSH with respiratory failure, intubated. Recent hospital course
   complicated by persistent respiratory failure, bilateral pleural
   effusions, Afib with RVR and development of sinus pauses on telemetry
   raising concern for sick sinus syndrome.
   .
   # Respiratory Failure: Likely multifactorial, related to infection and
   heart failure. Now, s/p extubation. Also, s/p thoracentesis on Sunday,
   with removal of 1.6 L of fluid.  Has been persistently hypercarbic
   although improved on serial abg, currently on shovel mask with 02 sats
   96
s with mask off. Continued rales on lung exam
   - continue to follow ABGs
   - wean O2 as tolerated
   - currently on Zosyn for H.flu coverage (today = day 8); will repeat
   CXR today to look for any changes and then will decide whether to
   continue abx
   -pleural fluid cx NGTD; f/u further results
   - giving 20 mg IV lasix today
   - [**Hospital1 7**] lytes.
   - better BP control to prevent flash pulmonary edema (see below)
   .
   # Hypertension: Pt noted to be hypertensive recently.  Started on
   metoprolol tartrate 25 mg [**Hospital1 7**] and amlodipine 5 mg daily yesterday.
   Still hypertensive this morning.
   - increasing amlodipine to 10 mg daily
   - consider hydral vs clonidine patch if BP remains under poor control
   .
   # Rhythm: As above, the patient has been noted to have episodes of both
   a.fib with RVR as well as sinus pauses on telemetry. This is concerning
   for sick sinus syndrome. Pacer wire has been pulled.
   - continue telemetry
   - Continue heparin GTT for now
   - need to weigh risks vs. benefits of long term anticoagulation with
   Coumadin; will d/w patient
   .
   # Nutrition:
   - S/S recommending ground diet
   .
   # MS- baseline fully functional prior to hospitalization. Slowly
   improving. Likely related to prolonged hospitalization with extended
   intubation.
   -serial exams
   .
   # ARF: [**First Name8 (NamePattern2) 54**] [**Last Name (un) 303**] labs, baseline Cr ranges between 0.8 and 1.0.
   Currently, Cr is 1.0. Likely was initially elevated [**12-30**] poor forward
   flow in the setting of CHF.
   - continue to trend creatinine
   .
   # Diabetes: Unclear of pt's home regimen.
   - ISS for now
   - fingersticks QID
   .
   # Hyperlipidemia:
   - need to clarify home regimen
   .
   # Hypothyroidism:
   - continue levothyroxine 50 mcg daily
   ICU Care
   Nutrition:
   Glycemic Control:  ISS
   Lines:
   Midline - [**2167-2-12**] 05:43 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Transfer to floor

2167-02-19 07:15:00 Physician Resident Progress Note
TITLE: Physician Resident Progress Note
   Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2167-2-18**] 04:23 PM
 CALLED OUT
   - repeat CXR: Increased bibasilar opacities and left pleural effusion
   following extubation.
   - anticoagulation was discussed with patient
   - stopped abx
   - increased amlodipine to 10 mg
   - sent protein/creatinine ratio: 0.9
   - got 1 dose of hydral
   - got a total of 80 mg IV lasix
   Allergies:
   Ace Inhibitors
   Unknown;
   Cozaar (Oral) (Losartan Potassium)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2167-2-16**] 06:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2167-2-18**] 06:21 AM
   Infusions:
   Heparin Sodium - 1,900 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2167-2-19**] 02:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-2-19**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**68**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.8
C (98.2
   HR: 66 (54 - 71) bpm
   BP: 165/56(82) {123/44(64) - 197/79(108)} mmHg
   RR: 20 (12 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.5 kg (admission): 81 kg
   Height: 62 Inch
             Total In:
                                                                  1,390 mL
                                                                    328 mL
   PO:
             TF:
   IVF:
                                                                  1,390 mL
                                                                    328 mL
   Blood products:
   Total out:
                                                                  1,692 mL
                                                                  1,800 mL
   Urine:
                                                                  1,692 mL
                                                                  1,800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -302 mL
                                                                 -1,472 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.42/45/64/25/3
   Physical Examination
   GEN: Alert and oriented x 3; NAD.
   HEENT: PERRL
   CV: [**1-3**] crescendo-decresendo  murmur at the RUSB
   RESP: bronchial breath sounds at bases bilaterally
   ABD: S/NT/ND; BS present
   EXT: Pitting edema in all 4 extremities, with LUE>RUE (nurse says that
   this asymmetry is not always the case and varies with positioning)
   Labs / Radiology
   423 K/uL
   10.5 g/dL
   170
   0.9 mg/dL
   25 mEq/L
   4.0 mEq/L
   13 mg/dL
   103 mEq/L
   139 mEq/L
   33.6 %
   4.2 K/uL
        [image002.jpg]
                             [**2167-2-16**]  03:36 PM
                             [**2167-2-16**]  04:40 PM
                             [**2167-2-17**]  12:14 AM
                             [**2167-2-17**]  03:49 AM
                             [**2167-2-17**]  03:47 PM
                             [**2167-2-18**]  04:44 AM
                             [**2167-2-18**]  03:04 PM
                             [**2167-2-18**]  03:44 PM
                             [**2167-2-18**]  11:00 PM
                             [**2167-2-19**]  05:45 AM
   WBC
   5.6
   4.9
   4.2
   Hct
   33.5
   34.0
   33.6
   Plt
   388
   451
   423
   Cr
   1.0
   0.9
   0.6
   1.0
   0.9
   0.9
   TCO2
   43
   38
   30
   Glucose
   137
   141
   148
   159
   188
   153
   170
   Other labs: PT / PTT / INR:13.4/71.2/1.1, CK / CKMB /
   Troponin-T:45//0.28, ALT / AST:22/25, Alk Phos / T Bili:119/0.8,
   Differential-Neuts:78.5 %, Lymph:15.0 %, Mono:3.6 %, Eos:2.4 %, Lactic
   Acid:1.0 mmol/L, Albumin:2.3 g/dL, LDH:231 IU/L, Ca++:9.0 mg/dL,
   Mg++:2.5 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   74 y/o F with PMHx significant for dCHF, HTN, HL, DM, who was admitted
   OSH with respiratory failure, intubated. Recent hospital course
   complicated by persistent respiratory failure, bilateral pleural
   effusions, Afib with RVR and development of sinus pauses on telemetry
   raising concern for sick sinus syndrome.
   .
   # Respiratory Failure: Likely multifactorial, related to H. influenza
   pneumonia and heart failure. Now, s/p extubation. Also, s/p
   thoracentesis, with removal of 1.6 L of fluid. Completed course of
   Zosyn. Currently on 4L NC. CXR bibasilar opacities and left pleural
   effusion.
   - wean O2 as tolerated
   - pleural fluid cx NGTD; f/u further results
   - diurese with Lasix 40 mg IV
   - [**Hospital1 7**] lytes
   - treat hypertension as below
   .
   # Hypertension: BP poorly controlled despite metoprolol tartrate 25 mg
   [**Hospital1 7**] and amlodipine 10 mg daily
   - Start Diovan 80 mg daily (history of allergy to [**Last Name (un) **] is cough, and it
   is not clear that cough was from [**Last Name (un) **])
   .
   # Rhythm: As above, the patient has been noted to have episodes of both
   a.fib with RVR as well as sinus pauses on telemetry. This is concerning
   for sick sinus syndrome. Pacer wire has been pulled.
   - continue telemetry
   - started Coumadin with heparin gtt as bridge
   .
   # Altered mental status: Likely related to delirium in setting of
   recent prolonged intubation. Slowly improving. No focal neurological
   deficits. A+Ox3.
   -continue to follow
   .
   # Diabetes: Unclear of pt's home regimen.
   - ISS for now
   - fingersticks QID
   .
   # Hyperlipidemia:
   - need to clarify home regimen
   .
   # Hypothyroidism:
   - continue levothyroxine 50 mcg daily
   ICU Care
   Nutrition: diabetic, dysphagia diet
   Glycemic Control:  insulin sliding scale
   Lines:
   Midline - [**2167-2-12**] 05:43 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Called out to [**Hospital Ward Name 289**] 3

2167-02-19 07:15:00 Physician Resident Progress Note
TITLE: Physician Resident Progress Note
   Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2167-2-18**] 04:23 PM
 CALLED OUT
   - repeat CXR: Increased bibasilar opacities and left pleural effusion
   following extubation.
   - anticoagulation was discussed with patient
   - stopped abx
   - increased amlodipine to 10 mg
   - sent protein/creatinine ratio: 0.9
   - got 1 dose of hydral
   - got a total of 80 mg IV lasix
   Allergies:
   Ace Inhibitors
   Unknown;
   Cozaar (Oral) (Losartan Potassium)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2167-2-16**] 06:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2167-2-18**] 06:21 AM
   Infusions:
   Heparin Sodium - 1,900 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2167-2-19**] 02:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-2-19**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**68**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.8
C (98.2
   HR: 66 (54 - 71) bpm
   BP: 165/56(82) {123/44(64) - 197/79(108)} mmHg
   RR: 20 (12 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.5 kg (admission): 81 kg
   Height: 62 Inch
             Total In:
                                                                  1,390 mL
                                                                    328 mL
   PO:
             TF:
   IVF:
                                                                  1,390 mL
                                                                    328 mL
   Blood products:
   Total out:
                                                                  1,692 mL
                                                                  1,800 mL
   Urine:
                                                                  1,692 mL
                                                                  1,800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -302 mL
                                                                 -1,472 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.42/45/64/25/3
   Physical Examination
   GEN: Alert and oriented x 3; NAD.
   HEENT: PERRL
   CV: [**1-3**] crescendo-decresendo  murmur at the RUSB
   RESP: bronchial breath sounds at bases bilaterally
   ABD: S/NT/ND; BS present
   EXT: Pitting edema in all 4 extremities, with LUE>RUE (nurse says that
   this asymmetry is not always the case and varies with positioning)
   Labs / Radiology
   423 K/uL
   10.5 g/dL
   170
   0.9 mg/dL
   25 mEq/L
   4.0 mEq/L
   13 mg/dL
   103 mEq/L
   139 mEq/L
   33.6 %
   4.2 K/uL
        [image002.jpg]
                             [**2167-2-16**]  03:36 PM
                             [**2167-2-16**]  04:40 PM
                             [**2167-2-17**]  12:14 AM
                             [**2167-2-17**]  03:49 AM
                             [**2167-2-17**]  03:47 PM
                             [**2167-2-18**]  04:44 AM
                             [**2167-2-18**]  03:04 PM
                             [**2167-2-18**]  03:44 PM
                             [**2167-2-18**]  11:00 PM
                             [**2167-2-19**]  05:45 AM
   WBC
   5.6
   4.9
   4.2
   Hct
   33.5
   34.0
   33.6
   Plt
   388
   451
   423
   Cr
   1.0
   0.9
   0.6
   1.0
   0.9
   0.9
   TCO2
   43
   38
   30
   Glucose
   137
   141
   148
   159
   188
   153
   170
   Other labs: PT / PTT / INR:13.4/71.2/1.1, CK / CKMB /
   Troponin-T:45//0.28, ALT / AST:22/25, Alk Phos / T Bili:119/0.8,
   Differential-Neuts:78.5 %, Lymph:15.0 %, Mono:3.6 %, Eos:2.4 %, Lactic
   Acid:1.0 mmol/L, Albumin:2.3 g/dL, LDH:231 IU/L, Ca++:9.0 mg/dL,
   Mg++:2.5 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   74 y/o F with PMHx significant for dCHF, HTN, HL, DM, who was admitted
   OSH with respiratory failure, intubated. Recent hospital course
   complicated by persistent respiratory failure, bilateral pleural
   effusions, Afib with RVR and development of sinus pauses on telemetry
   raising concern for sick sinus syndrome.
   .
   # Respiratory Failure: Likely multifactorial, related to H. influenza
   pneumonia and heart failure. Now, s/p extubation. Also, s/p
   thoracentesis, with removal of 1.6 L of fluid. Completed course of
   Zosyn. Currently on 4L NC. CXR bibasilar opacities and left pleural
   effusion.
   - wean O2 as tolerated
   - pleural fluid cx NGTD; f/u further results
   - diurese with Lasix 40 mg IV
   - [**Hospital1 7**] lytes
   - treat hypertension as below
   .
   # Hypertension: BP poorly controlled despite metoprolol tartrate 25 mg
   [**Hospital1 7**] and amlodipine 10 mg daily
   - Start Diovan 80 mg daily (history of allergy to [**Last Name (un) **] is cough, and it
   is not clear that cough was from [**Last Name (un) **])
   .
   # Rhythm: As above, the patient has been noted to have episodes of both
   a.fib with RVR as well as sinus pauses on telemetry. This is concerning
   for sick sinus syndrome. Pacer wire has been pulled.
   - continue telemetry
   - started Coumadin with heparin gtt as bridge
   .
   # Altered mental status: Likely related to delirium in setting of
   recent prolonged intubation. Slowly improving. No focal neurological
   deficits. A+Ox3.
   -continue to follow
   .
   # Diabetes: Unclear of pt's home regimen.
   - ISS for now
   - fingersticks QID
   .
   # Hyperlipidemia:
   - need to clarify home regimen
   .
   # Hypothyroidism:
   - continue levothyroxine 50 mcg daily
   ICU Care
   Nutrition:
   Glycemic Control:  ISS
   Lines:
   Midline - [**2167-2-12**] 05:43 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Transfer to floor

2167-02-19 07:15:00 Physician Resident Progress Note
TITLE: Physician Resident Progress Note
   Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2167-2-18**] 04:23 PM
 CALLED OUT
   - repeat CXR: Increased bibasilar opacities and left pleural effusion
   following extubation.
   - anticoagulation was discussed with patient
   - stopped abx
   - increased amlodipine to 10 mg
   - sent protein/creatinine ratio: 0.9
   - got 1 dose of hydral
   - got a total of 80 mg IV lasix
   Allergies:
   Ace Inhibitors
   Unknown;
   Cozaar (Oral) (Losartan Potassium)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2167-2-16**] 06:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2167-2-18**] 06:21 AM
   Infusions:
   Heparin Sodium - 1,900 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2167-2-19**] 02:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-2-19**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**68**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.8
C (98.2
   HR: 66 (54 - 71) bpm
   BP: 165/56(82) {123/44(64) - 197/79(108)} mmHg
   RR: 20 (12 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.5 kg (admission): 81 kg
   Height: 62 Inch
             Total In:
                                                                  1,390 mL
                                                                    328 mL
   PO:
             TF:
   IVF:
                                                                  1,390 mL
                                                                    328 mL
   Blood products:
   Total out:
                                                                  1,692 mL
                                                                  1,800 mL
   Urine:
                                                                  1,692 mL
                                                                  1,800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -302 mL
                                                                 -1,472 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.42/45/64/25/3
   Physical Examination
   GEN: Alert and oriented x 3; NAD.
   HEENT: PERRL
   CV: [**1-3**] crescendo-decresendo  murmur at the RUSB
   RESP: bronchial breath sounds at bases bilaterally
   ABD: S/NT/ND; BS present
   EXT: Pitting edema in all 4 extremities, with LUE>RUE (nurse says that
   this asymmetry is not always the case and varies with positioning)
   Labs / Radiology
   423 K/uL
   10.5 g/dL
   170
   0.9 mg/dL
   25 mEq/L
   4.0 mEq/L
   13 mg/dL
   103 mEq/L
   139 mEq/L
   33.6 %
   4.2 K/uL
        [image002.jpg]
                             [**2167-2-16**]  03:36 PM
                             [**2167-2-16**]  04:40 PM
                             [**2167-2-17**]  12:14 AM
                             [**2167-2-17**]  03:49 AM
                             [**2167-2-17**]  03:47 PM
                             [**2167-2-18**]  04:44 AM
                             [**2167-2-18**]  03:04 PM
                             [**2167-2-18**]  03:44 PM
                             [**2167-2-18**]  11:00 PM
                             [**2167-2-19**]  05:45 AM
   WBC
   5.6
   4.9
   4.2
   Hct
   33.5
   34.0
   33.6
   Plt
   388
   451
   423
   Cr
   1.0
   0.9
   0.6
   1.0
   0.9
   0.9
   TCO2
   43
   38
   30
   Glucose
   137
   141
   148
   159
   188
   153
   170
   Other labs: PT / PTT / INR:13.4/71.2/1.1, CK / CKMB /
   Troponin-T:45//0.28, ALT / AST:22/25, Alk Phos / T Bili:119/0.8,
   Differential-Neuts:78.5 %, Lymph:15.0 %, Mono:3.6 %, Eos:2.4 %, Lactic
   Acid:1.0 mmol/L, Albumin:2.3 g/dL, LDH:231 IU/L, Ca++:9.0 mg/dL,
   Mg++:2.5 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   74 y/o F with PMHx significant for dCHF, HTN, HL, DM, who was admitted
   OSH with respiratory failure, intubated. Recent hospital course
   complicated by persistent respiratory failure, bilateral pleural
   effusions, Afib with RVR and development of sinus pauses on telemetry
   raising concern for sick sinus syndrome.
   .
   # Respiratory Failure: Likely multifactorial, related to H. influenza
   pneumonia and heart failure. Now, s/p extubation. Also, s/p
   thoracentesis, with removal of 1.6 L of fluid. Completed course of
   Zosyn. Currently on 4L NC. CXR bibasilar opacities and left pleural
   effusion.
   - wean O2 as tolerated
   - pleural fluid cx NGTD; f/u further results
   - diurese with Lasix 40 mg IV
   - [**Hospital1 7**] lytes
   - treat hypertension as below
   .
   # Hypertension: Pt noted to be hypertensive recently.  Started on
   metoprolol tartrate 25 mg [**Hospital1 7**] and amlodipine 5 mg daily yesterday.
   Still hypertensive this morning.
   - increasing amlodipine to 10 mg daily
   - consider hydral vs clonidine patch if BP remains under poor control
   .
   # Rhythm: As above, the patient has been noted to have episodes of both
   a.fib with RVR as well as sinus pauses on telemetry. This is concerning
   for sick sinus syndrome. Pacer wire has been pulled.
   - continue telemetry
   - Continue heparin GTT for now
   - need to weigh risks vs. benefits of long term anticoagulation with
   Coumadin; will d/w patient
   .
   # Nutrition:
   - S/S recommending ground diet
   .
   # MS- baseline fully functional prior to hospitalization. Slowly
   improving. Likely related to prolonged hospitalization with extended
   intubation.
   -serial exams
   .
   # ARF: [**First Name8 (NamePattern2) 54**] [**Last Name (un) 303**] labs, baseline Cr ranges between 0.8 and 1.0.
   Currently, Cr is 1.0. Likely was initially elevated [**12-30**] poor forward
   flow in the setting of CHF.
   - continue to trend creatinine
   .
   # Diabetes: Unclear of pt's home regimen.
   - ISS for now
   - fingersticks QID
   .
   # Hyperlipidemia:
   - need to clarify home regimen
   .
   # Hypothyroidism:
   - continue levothyroxine 50 mcg daily
   ICU Care
   Nutrition:
   Glycemic Control:  ISS
   Lines:
   Midline - [**2167-2-12**] 05:43 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Transfer to floor